US04906628
2-[4-(4-Oxo-1,4-dihydropyridin-1-yl)phenyl]-4H,6H-1,3,4-thiadiazin-5-one
A stirred mixture of 2-(4-aminophenyl)-4H,6H-1,3,4-thiadiazin-5-one (1.0 g), 4H-pyran-4-one (0.51 g), water (20 ml) and concentrated hydrochloric acid (0.42 ml), was heated under reflux for 3 hours. The warm solution was neutralised with concentrated aqueous ammonia and cooled to give a solid, 1.33 g. Recrystallisation from methanol gave the title compound, 0.89 g, m.p. 289°-291° C.

reactant | 2-(4-aminophenyl)-4H,6H-1,3,4-thiadiazin-5-one | 1.0 g | NC1=CC=C(C=C1)C=1SCC(NN1)=O | C9H9N3OS
reactant | 4H-pyran-4-one | 0.51 g | O1C=CC(C=C1)=O | C5H4O2
reactant | hydrochloric acid | 0.42 ml | Cl | ClH
reactant | ammonia | N | H3N
solvent | water | 20 ml | O | H2O
product | 2-[4-(4-Oxo-1,4-dihydropyridin-1-yl)phenyl]-4H,6H-1,3,4-thiadiazin-5-one | O=C1C=CN(C=C1)C1=CC=C(C=C1)C=1SCC(NN1)=O | C14H11N3O2S
